US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methyl-4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
The title compound was prepared from [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (0.45 g, 1.72 mmol) and 6-bromo-2-methyl-2-phenyl-cyclohexanone (0.69 g, 2.6 mmol) using in analogous manner the procedure described in example 1b). Obtained as an off-white solid (0.29 g, 39%). MS ISP (m/e): 431.4 [(M+H)+]. mp 123-126° C.

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 1.72 mmol, 0.45 g | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-methyl-2-phenyl-cyclohexanone | 2.6 mmol, 0.69 g | BrC1CCCC(C1=O)(C1=CC=CC=C1)C | C13H15BrO
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-methyl-4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)(C2=CC=CC=C2)C | C25H26N4OS
